US04613607
6 g of sodium borohydride were added in 20 minutes, at the ambient temperature, to 16 g of 1-(2-phenyl-4-quinolyl)-2-(4-piperidyl)-ethanone dihydrochloride in 500 ml of methanol. After reacting for 2 hours at the ambient temperature, 350 ml of water were added and the methanol was removed by distillation under reduced pressure. The residual aqueous suspension was extracted with diethyl oxide, the organic phase was washed with water, dried over magnesium sulfate and evaporated under reduced pressure. The residue (13 g) was crystallized from petrol ether. 9 g of 1-(2-phenyl-4-quinolyl)-2-(4-piperidyl)-ethanol (racemic) were thus obtained, which melted at 147° C.

reactant | sodium borohydride | 6 g | [BH4-].[Na+]
reactant | 1-(2-phenyl-4-quinolyl)-2-(4-piperidyl)-ethanone dihydrochloride | 16 g | Cl.Cl.C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)C(CC1CCNCC1)=O
reactant | water | 350 ml | O | H2O
solvent | methanol | 500 ml | CO | CH4O
product | 1-(2-phenyl-4-quinolyl)-2-(4-piperidyl)-ethanol | 9 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)C(CC1CCNCC1)O | C22H24N2O
